US08304419B2
To a solution of N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (100 mg, 0.203 mmol), dichlorobisthiphenylphosphinepalladium(II) (14.22 mg, 0.020 mmol), copper(I) iodide (1.929 mg, 10.13 μmol) and TEA (0.141 ml, 1.013 mmol) in THF (5 ml) was added propargyl alcohol (22.72 mg, 0.405 mmol) and the reaction mixture was stirred at 60° C. overnight. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-[(4-chloro-3-{[3-chloro-5-(3-hydroxy-1-propyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (18 mg, 0.038 mmol, 19% yield).

reactant | N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.203 mmol, 100 mg | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C17H10BrCl3FN3O2
reactant | propargyl alcohol | 0.405 mmol, 22.72 mg | C(C#C)O | C3H4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 10.13 μmol, 1.929 mg | [Cu]I
product | 4-chloro-N-[(4-chloro-3-{[3-chloro-5-(3-hydroxy-1-propyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.038 mmol, 18 mg, 19% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#CCO)Cl)F | C20H13Cl3FN3O3
